US07598257B2
Diisobutylaluminum hydride in hexane (1 M, 4 mL) was added to a −78° C. solution of ethyl 3-(3-bromophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanoate (600 mg, 0.001 mol) in DCM (6 mL, 0.09 mol). After stirring for 4 h, the reaction was quenched with cold methanol (300 μL), and then saturated ammonium chloride (500 μL) was added and the resulting solution was stirred for 1 h. The reaction was partitioned between water and EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The product was purified by flash chromatography on silica gel eluting with hexane:EtOAc, (2:1 to 1:2), to give 3-(3-bromophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]propanal (400 mg, 70%) as an oil. 1H NMR (400 MHz, CDCl3): δ 9.9 (s, 1H), 8.9 (s, 1H), 8.4 (s, 2H), 7.6 (d, 1H), 7.5 (d, 1H), 7.4 (d, 1H), 7.3-7.4 (m, 2H), 6.8 (d, 1H), 6.1 (m, 1H), 5.7 (s, 2H), 4 (m, 1H), 3.6 (m, 2H), 3.3 (dd, 1H), 1.0 (m, 2H), 0.01 (s, 9H). m/z=526, 528 (M+1).

reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3-(3-bromophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanoate | 0.001 mol, 600 mg | BrC=1C=C(C=CC1)C(CC(=O)OCC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H32BrN5O3Si
reactant | DCM | 0.09 mol, 6 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 1 M, 4 mL | CCCCCC | C6H14
product | 3-(3-bromophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]propanal | 400 mg, 70% | BrC=1C=C(C=CC1)C(CC=O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H28BrN5O2Si
